US09233979B2
(S)-1-(2-hydroxy-2-methyl-1-phenylpropyl)-3-(3-(4-methoxybenzyl)-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)urea (38 mg, 0.052 mmol) was taken in TFA (0.17 mL) and stirred at room temperature for 30 minutes. To the reaction was added triethylsilane (34 uL, 0.209 mmol) stirred for 15 minutes at room temperature then heated to 80° C. for 30 minutes. The reaction mixture was concentrated, taken in DCM and washed with aqueous sodium bicarbonate, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-15% MeOH-DCM) gave (S)-1-(2-hydroxy-2-methyl-1-phenylpropyl)-3-(1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)urea. MS ESI calc'd. for C19H22N6O2 [M+H]+ 367. found 367. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 9.25 (br, 2H), 7.28 (m, 4H), 7.20 (m, 1H), 6.90 (s, 1H), 4.59 (d, J=14 Hz, 1H), 3.42 (dd, J=8.0, 5.0 Hz, 2H), 2.92 (dd, J=8.0, 5.0 Hz, 2H), 1.95 (s, 3H), 1.0 (s, 3H).

reactant | (S)-1-(2-hydroxy-2-methyl-1-phenylpropyl)-3-(3-(4-methoxybenzyl)-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)urea | 0.052 mmol, 38 mg | OC([C@H](C1=CC=CC=C1)NC(=O)NC1=NC=2CCN(C=3C2C(=C1)N(N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC3=CC=C(C=C3)OC)(C)C | C46H44N6O3
reactant | triethylsilane | 0.209 mmol, 34 uL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 0.17 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-1-(2-hydroxy-2-methyl-1-phenylpropyl)-3-(1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)urea | OC([C@H](C1=CC=CC=C1)NC(=O)NC1=NC=2CCNC=3C2C(=C1)NN3)(C)C | C19H22N6O2
